US08017607B2
Preparation of rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-3-oxo-propionic acid
A mixture of methyl malonyl chloride (Aldrich, 127 mg, 0.93 mmol), DIPEA (Aldrich, 297.0 mg, 2.3 mmol) and rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (150 mg, 0.35 mmol) was stirred at rt overnight. The reaction mixture was concentrated and purified by RP-HPLC to give rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-3-oxo-propionic acid methyl ester (136.2 mg, 73.5%). In a manner similar to the method described in Example 8, rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-3-oxo-propionic acid methyl ester (120 mg, 0.23 mmol) was treated with 2 N LiOH (1.0 mL) in THF/MeOH (3 mL/1 mL) at rt for 3 hrs and purified by RP-HPLC to rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-3-oxo-propionic acid (21.2 mg, 18.2%). HRMS (ES+) m/z Calcd for C25H24Cl2F2N2O3+H [(M+H): 509.1205; Found: 509.1207.

reactant | rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-3-oxo-propionic acid methyl ester | 0.23 mmol, 120 mg | COC(CC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C26H26Cl2F2N2O3
reactant | LiOH | 2 N, 1.0 mL | [Li+].[OH-]
solvent | THF MeOH | 3 mL | C1CCOC1.CO
product | rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-3-oxo-propionic acid | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(CC(=O)O)=O)F | C25H24Cl2F2N2O3
